US09328106B2
To a solution of 2,2,2-trifluoro-N-(5-fluoro-2-hydroxy-5-(2-methyl-4-nitro-pyrazol-3-yl)cycloheptyl)acetamide (120 mg, 0.32 mmol) in THF (10 mL) and MeOH (10 mL) was added 10% palladium on carbon (12 mg). The reaction mixture was heated at 40° C. under a 400 psi atmosphere of hydrogen for 3 hr, cooled to room temperature, filtered through Celite®, washing with methanol (50 mL) and concentrated under reduced pressure. The procedure was repeated using the same conditions except with additional aqueous HCl (2 M, 2 mL). To a solution of the residue in DCM (20 mL) was added DIPEA (1.00 mL, 5.74 mmol), 5-(tert-butoxycarbonylamino)-2-(2,6-difluorophenyl)thiazole-4-carboxylic acid (123 mg, 0.46 mmol) and PyBOP (409 mg, 0.78 mmol) and the mixture was stirred at room temperature for 16 hr. The reaction was quenched with water (20 mL) and extracted with DCM (150 mL). The organic layer was washed saturated solution of NaHCO3 (30 mL) and water (30 mL), separated, dried over MgSO4 and concentrated under reduced pressure. Purification via silica gel chromatography (80-100% EtOAc/isohexane) gave tert-butyl N-(2-(2,6-difluorophenyl)-4-((1-methyl-5-(2-((2,2,2-trifluoroacetyl)amino)-8-oxabicyclo[3.2.1]octan-5-yl)pyrazol-4-yl)carbamoyl)thiazol-5-yl)carbamate as an off-white solid (58 mg, 27% over two steps). 1H NMR (400 MHz, CDCl3) δ 10.47 (s, 1H), 10.39 (s, 1H), 8.33 (s, 1H), 7.39-7.33 (m, 1H), 7.18-7.10 (m, 2H), 5.91 (d, J=7.7 Hz, 1H), 4.89-4.83 (m, 1H), 4.47-4.38 (m, 1H), 3.86 (s, 3H), 2.47-2.38 (m, 1H), 2.27-1.90 (m, 7H), 1.55 (s, 9H).

reactant | 2,2,2-trifluoro-N-(5-fluoro-2-hydroxy-5-(2-methyl-4-nitro-pyrazol-3-yl)cycloheptyl)acetamide | 0.32 mmol, 120 mg | FC(C(=O)NC1C(CCC(CC1)(C=1N(N=CC1[N+](=O)[O-])C)F)O)(F)F | C13H16F4N4O4
reactant | hydrogen | [H][H] | H2
reactant | DIPEA | 5.74 mmol, 1.00 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 5-(tert-butoxycarbonylamino)-2-(2,6-difluorophenyl)thiazole-4-carboxylic acid | 0.46 mmol, 123 mg | C(C)(C)(C)OC(=O)NC1=C(N=C(S1)C1=C(C=CC=C1F)F)C(=O)O | C15H14F2N2O4S
reactant | PyBOP | 0.78 mmol, 409 mg | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | MeOH | 10 mL | CO | CH4O
catalyst | palladium on carbon | 12 mg | [Pd] | Pd
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl N-(2-(2,6-difluorophenyl)-4-((1-methyl-5-(2-((2,2,2-trifluoroacetyl)amino)-8-oxabicyclo[3.2.1]octan-5-yl)pyrazol-4-yl)carbamoyl)thiazol-5-yl)carbamate | FC1=C(C(=CC=C1)F)C=1SC(=C(N1)C(NC=1C=NN(C1C12CCC(C(CC1)O2)NC(C(F)(F)F)=O)C)=O)NC(OC(C)(C)C)=O | C28H29F5N6O5S
